US06500863B1
3-(azetidin-1-yl)sulfonyl-4-chloro-2-hydroxyaniline
Following the general hydrogenation procedure outlined in example 15, 1-(azetidin-1-yl)sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene (240 mg, 0.82 mmol) was reduced with hydrogen and 10% Pd/C (110 mg) to form the desired product (215 mg, 100%). 1H NMR (MeOD-d4): δ 6.91 (m, 2H), 4.01 (t, 4H), 2.23 (m, 2H).

reactant | 1-(azetidin-1-yl)sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene | 0.82 mmol, 240 mg | N1(CCC1)S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C9H9ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 110 mg | [Pd] | Pd
product | 3-(azetidin-1-yl)sulfonyl-4-chloro-2-hydroxyaniline | 215 mg, 100% | N1(CCC1)S(=O)(=O)C=1C(=C(N)C=CC1Cl)O | C9H11ClN2O3S
